US07074819B2
4-(9-Acetylthiononyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman (40.0 mg, 0.0735 mmol) was dissolved in methanol (1 ml) under nitrogen, 2N—NaOH (0.5 ml) was added dropwise thereto, and the mixture was stirred at room temperature for 30 minutes. After the reaction was completed, the reaction mixture was cooled, and 2N-HCl aqueous solution was poured thereinto. This solution was extracted with chloroform and washed with saturated saline solution. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue thus obtained was added to a solvent mixture of methylene chloride (1 ml) and water (0.5 ml), N-chlorosuccinimide (39.3 mg, 0.294 mmol) was added, and the resulting mixture was stirred for 15 minutes. After the reaction was completed, saturated aqueous NAHCO3 solution was added thereto. The mixture was extracted with methylene chloride and washed with saturated saline solution. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure to give a mixture containing 4-(9-chlorosulfonylnonyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman. 4,4,5,5,5-Pentafluoropentylcarbamic acid t-butylester (61.8 mg, 0.221 mmol) was dissolved in methylene chloride (1 ml), TFA (1 ml) was added dropwise thereto, and the mixture was stirred at room temperature for 15 minutes. After the reaction was completed, the solvent was removed under reduced pressure. The residue thus obtained was dissolved in methylene chloride (1 ml) and cooled. To this solution was added a mixture containing triethylamine (0.051 ml, 0.37 mmol) and 4-(9-chlorosulfonylnonyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman dissolved in methylene chloride (1 ml), which was then stirred for 1 hour. After the reaction was completed, the organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue thus obtained was subjected to silica gel column chromatography (n-hexane:ethyl acetate=1:1) to give 7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methyl-4-[9-(4,4,5,5,5-pentafluoropentylaminosulfonyl)nonyl]chroman (8.0 mg, yield 16%).

reactant | 4-(9-Acetylthiononyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman | 0.0735 mmol, 40.0 mg | C(C)(=O)SCCCCCCCCCC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C31H44O6S
reactant | NaOH | 0.5 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
reactant | N-chlorosuccinimide | 0.294 mmol, 39.3 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 4-(9-chlorosulfonylnonyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman | ClS(=O)(=O)CCCCCCCCCC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C29H41ClO7S
reactant | 4,4,5,5,5-Pentafluoropentylcarbamic acid t-butylester | 0.221 mmol, 61.8 mg | C(C)(C)(C)OC(NCCCC(C(F)(F)F)(F)F)=O | C10H16F5NO2
reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylamine | 0.37 mmol, 0.051 ml | C(C)N(CC)CC | C6H15N
reactant | methanol | 1 ml | CO | CH4O
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | CCCCCC | C6H14
solvent | water | 0.5 ml | O | H2O
product | 7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methyl-4-[9-(4,4,5,5,5-pentafluoropentylaminosulfonyl)nonyl]chroman | 8.0 mg, yield 16% | COCOC1=CC=C2C(C(COC2=C1)(C)C1=CC=C(C=C1)OCOC)CCCCCCCCCS(=O)(=O)NCCCC(C(F)(F)F)(F)F | C34H48F5NO7S
